US06586447B1
1G. 4-[6-(4-Cyano-phenyl)-3,3-bis-(1H-imidazol-4-ylmethyl)-2-oxo-2,3-dihydro-indol-1-ylmethyl]-N,N-dimethyl-benzenesulfonamide
4-[6-(4-Cyano-phenyl)-2-oxo-3,3-bis-(1-trityl-1H-imidazol-4-ylmethyl)-2,3-dihydro-indol-1-ylmethyl]-N,N-dimethyl-benzenesulfonamide (0.3 g, 0.4 mmol) was dissolved in a solution of 4.0 ml of TFA and 500 μL of triethylsilane under an atmosphere of dry N2 and stirred for 1 hour. The heterogeneous mixture was concentrated under vacuum and partitioned between aqueous 0.1 N HCl and ethyl ether (Et2O). The water layer was washed with Et2O and then basified to pH˜9 with sodium hydroxide (NaOH). The water layer was then washed 3 times with DCM. The DCM layers were combined and dried over Na2SO4, filtered and concentrated under vacuum to give 13 mg of the titled compound as a purple solid.

reactant | 4-[6-(4-Cyano-phenyl)-2-oxo-3,3-bis-(1-trityl-1H-imidazol-4-ylmethyl)-2,3-dihydro-indol-1-ylmethyl]-N,N-dimethyl-benzenesulfonamide | 0.4 mmol, 0.3 g | C(#N)C1=CC=C(C=C1)C1=CC=C2C(C(N(C2=C1)CC1=CC=C(C=C1)S(=O)(=O)N(C)C)=O)(CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C70H57N7O3S
solvent | TFA | 4.0 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | triethylsilane | 500 μL | C(C)[SiH](CC)CC | C6H16Si
product | 4-[6-(4-Cyano-phenyl)-3,3-bis-(1H-imidazol-4-ylmethyl)-2-oxo-2,3-dihydro-indol-1-ylmethyl]-N,N-dimethyl-benzenesulfonamide | 13 mg | C(#N)C1=CC=C(C=C1)C1=CC=C2C(C(N(C2=C1)CC1=CC=C(C=C1)S(=O)(=O)N(C)C)=O)(CC=1N=CNC1)CC=1N=CNC1 | C32H29N7O3S
